US04677123
The process of the present invention comprises reacting phenyl lithium with 1,8-dihydroxy anthraquinone in the presence of an anhydrous organic solvent, such as tetrahydrofuran, to form 1,8,10-trihydroxy-10-phenyl-9-anthrone which is then reduced with a reducing agent so as to produce 1,8-dihydroxy-10-phenyl-9-anthrone.

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | 1,8-dihydroxy anthraquinone | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O | C14H8O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,8,10-trihydroxy-10-phenyl-9-anthrone | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)(C1=CC=CC=C1)O | C20H14O4
